US08664379B2
To a solution of 6-(2,4-difluorophenyl)-3,4-dihydroquinolin-2(1H)-one (130 mg, 0.50 mmol) in anhydrous tetrahydrofuran (5 mL) at 0° C. in a dry flask equipped with an inlet of dry nitrogen was added fresh 1.6 M n-butyl lithium in n-hexane (0.6 mL, 0.96 mmol) with stirring. The reaction mixture was stirred at 0° C. for 2 hours, followed by addition of a second portion of 1.6 M n-butyl lithium in n-hexane (0.6 mL, 0.96 mmol), and the mixture stirred for another 2 hours. To this mixture was added slowly a solution of benzyl bromide (855 mg, 5.00 mmol) in anhydrous tetrahydrofuran (3 mL) at 0° C., stirred overnight, and allowed to warm to room temperature. The reaction was followed by LCMS and stirring was continued until all of the starting material was consumed. The reaction mixture was quenched by slow addition of saturated aqueous ammonium chloride (10 mL) with stirring, concentrated under reduced pressure, diluted with ethyl acetate (20 mL) and dilute aqueous ammonium chloride (10 mL). The aqueous phase was extracted with ethyl acetate (3×20 mL), and the combined organic phase successively washed with 2N sodium carbonate (20 mL), 30% ammonium chloride (20 mL), brine (20 mL), and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure gave a crude mixture, which was purified by reverse phase HPLC with a gradient of acetonitrile/water (2% to 98%) to afford 1-benzyl-6-(2,4-difluorophenyl)-3,4-dihydroquinolin-2(1H)-one (62 mg, 0.18 mmol, 35%). LCMS mz 350.0 (M+H), 372.0 (M+Na), anal HPLC>98% in purity. 1H NMR (400 MHz; CDCl3) δ7.10-7.40 (m, 8H); 6.80-7.00 (m, 3H); 5.22 (s, 2H); 3.05 (m, 2H); 2.85 (m, 2H).

reactant | 6-(2,4-difluorophenyl)-3,4-dihydroquinolin-2(1H)-one | 0.50 mmol, 130 mg | FC1=C(C=CC(=C1)F)C=1C=C2CCC(NC2=CC1)=O | C15H11F2NO
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 0.96 mmol, 0.6 mL | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 0.96 mmol, 0.6 mL | CCCCCC | C6H14
reactant | benzyl bromide | 5.00 mmol, 855 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-benzyl-6-(2,4-difluorophenyl)-3,4-dihydroquinolin-2(1H)-one | 0.18 mmol, 62 mg, 35% | C(C1=CC=CC=C1)N1C(CCC2=CC(=CC=C12)C1=C(C=C(C=C1)F)F)=O | C22H17F2NO
